US05686455
4-(4-Fluorophenyl)-2-(4-methylsulfonylphenyl)-5-(4-pyridyl)-1H-imidazole
To a solution of 4-(4-fluorophenyl)-2-(4-methylsulfinylphenyl)-5-(4-pyridyl)-1H-imidazole (3.7 g, 9.8 mmol) [See Ex. 20 below] in 1:10 3N HCl/H2O (88 mL) was added a solution of KMnO4 (1.5 g, 9.8 mmol) in H2O (15 mL). After sting at rt for 1 h, additional KMnO4 (0.15 g, 0.9 mmol) was added, and sting was continued for 15 min. The mixture was then poured into saturated aqueous Na2SO3 (200 mL), and the pH was adjusted to slightly acidic by the addition of 3N HCl, then to neutral by the addition of 2.5N NaOH. The solid which formed was collected by filtration, washed successively with H2O and MeOH and recrystallized three times from MeOH to afford the title compound (0.63 g, 16%): mp 148°-149° C.

reactant | 4-(4-fluorophenyl)-2-(4-methylsulfinylphenyl)-5-(4-pyridyl)-1H-imidazole | 9.8 mmol, 3.7 g | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)C1=CC=C(C=C1)S(=O)C | C21H16FN3OS
reactant | HCl H2O | 3N, 88 mL | Cl.O
reactant | KMnO4 | 9.8 mmol, 1.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | KMnO4 | 0.9 mmol, 0.15 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | Na2SO3 | 200 mL | [O-]S(=O)[O-].[Na+].[Na+]
reactant | HCl | 3N | Cl | ClH
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | H2O | 15 mL | O | H2O
product | 4-(4-Fluorophenyl)-2-(4-methylsulfonylphenyl)-5-(4-pyridyl)-1H-imidazole | 0.63 g, 16% | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C21H16FN3O2S
